US04281188
9.6 g (0.029 M) of rac-7-amino-3-ethyl-5-(o-chlorophenyl)-1,3-dihydro-1-methyl-2H-1,4-benzodiazepin-2-one dissolved in 50 ml of concentrated aqueous hydrobromic acid are treated slowly at between 0°-5° C. with 5.2 g (1.65 ml) of bromine and the mixture is stirred at 0° C. for 1 hour. The mixture is then poured on to a mixture of ice and sodium carbonate solution, extracted with methylene chloride and the extract is dried over sodium sulphate, filtered and concentrated. After crystallisation from methylene chloride/ether/petroleum ether, there is obtained rac-7-amino-3-ethyl-6-bromo-5-(o-chlorophenyl)-1,3-dihydro-1-methyl-2H-1,4-benzodiazepin-2-one which melts at 251° C. with decomposition.

reactant | rac-7-amino-3-ethyl-5-(o-chlorophenyl)-1,3-dihydro-1-methyl-2H-1,4-benzodiazepin-2-one | 0.029 M, 9.6 g | NC=1C=CC2=C(C(=NC(C(N2C)=O)CC)C2=C(C=CC=C2)Cl)C1 | C18H18ClN3O
reactant | bromine | 1.65 ml, 5.2 g | BrBr | Br2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | hydrobromic acid | 50 ml | Br | BrH
product | rac-7-amino-3-ethyl-6-bromo-5-(o-chlorophenyl)-1,3-dihydro-1-methyl-2H-1,4-benzodiazepin-2-one | NC=1C=CC2=C(C(=NC(C(N2C)=O)CC)C2=C(C=CC=C2)Cl)C1Br | C18H17BrClN3O
